US06762320B2
a) {[2-Fluoro-4-(4-fluoro-benzyloxy)-phenylcarbamoyl]-methyl}-carbamic acid tert-butyl ester
A mixture of 2-fluoro-4-(4-fluoro-benzyloxy)-phenylamine (1:1) hydrochloride (272 mg, 1 mmol), Boc-glycine (263 mg, 1.5 mmol), N,N′-dicylcohexylcarbodiimide (206 mg, 1 mmol) and pyridine (127 mg, 1.6 mmol) in ethyl acetate (6 mL) was stirred at room temperature for 3 h. After this time, the reaction mixture wa poured into sodium hydrogen carbonate (saturated), and the mixture extracted with ethyl acetate. The combined organic layers were then washed with brine and dried. Filtration and evaporation afforded the title compound (180 mg, 46%) as a light brown solid after chromatography on silica gel eluting with ethyl acetate: heptane (1:1 to 4:1). MS: m/e=393.1 (M++H).

reactant | 2-fluoro-4-(4-fluoro-benzyloxy)-phenylamine | FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)F)N | C13H11F2NO
reactant | hydrochloride | 1 mmol, 272 mg | Cl | ClH
reactant | Boc-glycine | 1.5 mmol, 263 mg | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | N,N′-dicylcohexylcarbodiimide | 1 mmol, 206 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | pyridine | 1.6 mmol, 127 mg | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
product | {[2-Fluoro-4-(4-fluoro-benzyloxy)-phenylcarbamoyl]-methyl}-carbamic acid tert-butyl ester | 180 mg, 46% | C(C)(C)(C)OC(NCC(NC1=C(C=C(C=C1)OCC1=CC=C(C=C1)F)F)=O)=O | C20H22F2N2O4
